US09169259B2
A mixture of 6-chloro-N-(6-(3-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (296 mg, 0.9 mmol), phenylboronic acid (165 mg, 1.35 mmol), Pd2(dba)3 (52 mg, 0.09 mmol), X-phos (172 mg, 0.36 mmol) and Na2CO3 (287 mg, 2.7 mmol) in dioxane (10 mL) and water (1 mL) was heated to 100° C. with stirring for 16 h under N2. The solution was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=5:1) to give N-(6-(3-methylpyrrolidin-1-yl)pyridin-2-yl)-6-phenylimidazo[1,2-b]pyridazin-8-amine (134 mg, 40%) as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 8.82 (s, 1H), 8.06-7.93 (m, 3H), 7.93-7.39 (m, 5H), 6.20 (d, 1H, J=7.8 Hz), 5.98 (d, 1H, J=8.1 Hz), 3.86-3.80 (m, 1H), 3.67-3.62 (m, 1H), 3.55-3.46 (m, 1H), 3.14 (t, 1H, J=9.3 Hz), 2.47-2.37 (m, 1H), 2.23-2.14 (m, 1H), 1.75-1.62 (m, 1H), 1.19 (d, 3H, J=6.6 Hz). LC-MS: [M+H]+, 371, tR=2.057 min, HPLC: 100% at 214 nm, 100% at 254 nm, tR=4.787 min.

reactant | 6-chloro-N-(6-(3-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.9 mmol, 296 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2CC(CC2)C | C16H17ClN6
reactant | phenylboronic acid | 1.35 mmol, 165 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | X-phos | 0.36 mmol, 172 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 2.7 mmol, 287 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd2(dba)3 | 0.09 mmol, 52 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(6-(3-methylpyrrolidin-1-yl)pyridin-2-yl)-6-phenylimidazo[1,2-b]pyridazin-8-amine | 134 mg, 40% | CC1CN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=CC=C1)C=CN2 | C22H22N6
